Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with T3 paraplegia from a GSW in
___, s/p colostomy, neurogenic bowel, neurogenic bladder with
indwelling ___, autonomic dysreflexia, DVT/PE on xarelto
(reports most recent was several months ago), who presented to
the ED with 2 days of abdominal pain at the site of a skin tear
near his ostomy site. The patient is homeless and mostly stays 
at
shelters or with friends. He takes care of his own ostomy
changes, ___ changes, and foot ulcer dressings. He reports 
that
he obtains supplies from ___ clinic without difficulty. Per
___ reports he has had multiple presentations related to poor
wound care and poor ostomy care. most recently he was admitted
last month with worsening foot ulcers which required debridement
by podiatry and a course of antibiotics, and then presented 
about
one week ago with skin breakdown and foud smell around the
ostomy, as well as UTI, for which he was treated with levaquin
for UTI and ?abdominal wall cellulitis(cultures grew klebsiella
resistant to augmenin/amp/cefazolin and susceptible to
ctx/gent/levaquin/macrobid, and proteus was pan-sensitive). Per
his report he suffered a skin tear while taking down an ostomy
bag, which has caused significant abdominal wall pain for the
past 2 days. He denies any urinary changes (notes that urine
usually becomes foul smelling when he has a UTI) and feels that
his foot ulcers look stable/unchanged. He also endorses loose
stool (which he reports started in the hospital), shakes and
chills (which he attributes to his autonomic dysreflexia), and
recent bleeding from the stoma site (although not at present). 
He
notes that he takes xarelto somewhat inconsistently and has been
out of his oxybutynin and baclofen for several weeks. He states
that he drinks typically ___, most recently 2 days ago 
when
he had 2 cups of liquor on ___. He denies any history 
of
withdrawal or daily consumption. 

He presented to the ED, where his VS were notable for 
tachycardia
as high as 110 (subsequently improved to ___, BPs from
___, and satting 100% on RA. Lab data with
leukocytosis (11.5, then 8.4) and anemia (8.8, MCV 75), normal
LFTs, BMP with BUN of 24 and otherwise wnl, lactate 3.1->1.6, UA
with large leuks, +nitrate, >182 WBCs, INR 1.1. CXR 
unremarkable,
and CT A/P with punctate nonobstructing R renal stone and 1.6 cm
square foreign object projecting over the course of the L 
urethra
and ___ tract, suspected to be external to patient. He 
received
IVFs, folate, thiamine, ceftriaxone 1 mg, Tylenol, and morphine.

ROS: As per HPI, and 10 point 
 
Past Medical History:
T3 paraplegia due to GSW (___)
s/p ostomy
neurogenic bowel
neurogenic bladder with indwelling ___ MDR UTIs
autonomic dysreflexia
DVT/PE on xarelto (reports most recent was several months ago)
Foot ulcers
Anemia (recent baseline ~ 8)
PTSD
 
Social History:
___
Family History:
grandmother had cancer - uncertain what type
 
Physical Exam:
Admission Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: ostomy in place with adjacent ~3cm area of partial thickness
skin loss with bright pink dermal tissue exposed; evidence of
ostomy leakage around site contaminating wound. no evidence of
discharge. tender to palpation around this site
GU: No CVA tenderness
MSK: No swollen or erythematous joints
SKIN: Abdominal lesion as noted above. Toes dressed with 
xeroform
and gauze with underlying ulcerations of distal feet 
bilaterally,
without any malodor or drainage
NEURO:alert and interactive, able to relate history, equal
handgrip bilaterally
PSYCH: pleasant affect

Discharge exam:
Vital signs reviewed in flowsheet. Stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: ostomy in place with adjacent ~3cm area of partial thickness
skin loss with bright pink dermal tissue exposed; pink colored
scar tissue also present in peristomal area without drainage or
gross fecal contamination
MSK: No swollen or erythematous joints
SKIN: Abdominal lesion as noted above. Toes dressed with 
xeroform
and gauze with underlying ulcerations of distal feet 
bilaterally,
without any malodor or drainage
NEURO: alert and interactive
PSYCH: pleasant affect
 
Pertinent Results:
=================================================
Pertinent data

WBC: 11.5 --->7
Hgb mostly ___ range, MCV in mid-70s
Plts 500s-600s
Iron ___
Ferritin 12
TIBC 421

Urine Cx
___ 3:56 am URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>___/P
1. No retroperitoneal hematoma or other acute process in the 
abdomen and 
pelvis. 
2. Punctate nonobstructing right renal stone. 
3. 1.6 cm square foreign appearing object projecting over the 
course of the left urethra and ___ tract, of uncertain 
etiology, likely external to the patient. Correlate with 
physical exam. 

=================================================

 
Brief Hospital Course:
___ year old man with T3 paraplegia from a GSW in ___, s/p 
colostomy, neurogenic bowel, neurogenic bladder with indwelling 
___, autonomic dysreflexia, DVT/PE on xarelto (reports most 
recent was several months ago), who presented to the ED with 2
days of abdominal pain at the site of a skin tear near his 
ostomy site. 

#Abdominal pain
#Suspected infected abdominal wall wound:
Concern for infection based on septic presentation and gross 
wound contamination with feces, although no definite evidence of 
infection, and by the time of discharge with good wound care, 
the wound appeared to be healing well. Treated with 
ceftriaxone/flagyl during admission, and he will complete an 
additional 4 days of augmentin for total 7 day course. Seen by 
wound care/ostomy team, who provided care instructions and 
supplies (see details below). His pain improved by hospital day 
2. He will follow-up closely in his clinic at ___. 

#?UTI:
UA with pyuria, although patient denied symptoms that he usually 
experiences with UTIs, such as changes in color and odor of 
urine. Initially started on ceftriaxone, but ultimately 
suspicion was low enough that he was not continued on UTI 
treatment at discharge. Culture grew e coli with multiple drug 
resistances, with ___ colonies, likely due to colonization 
rather than infection. 

#Foot ulcers:
Patient with chronic pressure ulcers of bilateral feet, recently 
debrided by podiatry at ___. Wounds did not appear infected. Has 
some chronic pedal edema, which he stated was overall improved 
from prior, which in conjunction with footwear were felt to have 
predisposed to ulcers. He was seen by wound care team, who made 
recommendations that they provided to the patient along with 
supplies. (see details below). He will also follow-up later this 
week with ___ podiatry. 

#History of DVT/PE 
He reports most recent DVT was several months ago at ___. He is 
prescribed xarelto but misses doses occasionally. Prescribed 
xarelto on discharge, which he will pick up from ___ pharmacy 
since he was out. 

#Alcohol use:
Intermittent use, but not daily. Would recommend outpatient 
counseling

#Chronic neurogenic bladder/spasticity
- continued home baclofen and oxybutynin, provided refill at 
discharge

#Iron deficiency anemia
Labs suggestive of iron deficiency anemia, similar severity to 
recent baseline. Given reports of bleeding from ostomy site, 
suspect this is source. Started iron supplements, and could 
consider further outpatient work-up with scope if not improving.

#Thrombocytosis:
Suspect reactive in setting of the above, but would repeat as 
outpatient and consider further evaluation if appropriate. 

#Self-care issues
Patient manages colostomy, ___, and foot wound care mostly 
independently despite being homeless and paraplegic. Continues 
to understandable struggle with this as well as medication 
adherence. Social work and case management were consulted during 
the admission. Options considered included admission to ___ 
___ house and Community Support Person. At this point 
patient declined, although he will look into the latter once he 
has a cell phone in conjunction with ___ social work. ___ 
services were considered but he was unable to reach the friend 
he will be staying with and so could not be arranged. 

============================================
Ostomy team assessment and plan

Comments: Patient with colostomy X ___ years. Now with Skin tear
___ stoma at 10 O'clock. Patient using one Piece cut to fit.
reports traumatic pouch removal causing skin tear.  Will have
patient cut off center and leave skin tear open for topical
therapy. 

Peristomal skin tear 1.5 X 1 cm partial thickness, clean with
mild soap and water, cover with adaptic to wound base or 
Xeroform
(as patient has a supply from ___) cover with 2 X 2 and medipore
tape. 
Instruction/Recommendations staff nursing: 

1. Have patient cut wafer closer to size of stoma opening at 
skin
level, placing prolapse stoma into pouch.  Keep skin under
prolapse dry with 4X4 while placing pouch to prevent moisture
from stoma on per stoma skin that can affect wafer adhesion. 

2. patient using Adapt ring on back of wafer and instructed to
keep calk upto stoma at skin level.  
============================================
Wound care assessment (foot ulcers)

Recommendations:  Pressure relief per pressure ulcer guidelines
   Support surface:
   Turn and reposition every ___ hours and prn off affected area
   Heels off bed surface at all times
Waffle Boots ( X  )  Multipodis Splints (  )   
   If OOB, limit sit time to one hour at a time and 
   Sit on a pressure redistribution cushion-
     Standard Air (  )
     ROHO ( X  ) Patient has own on wheelchair
     OR ___ air full length chair cushion ( ) (Obtain from ___
   Elevate ___ while sitting.
   Moisturize B/L ___ and feet, intact skin only BID with Sooth
And Cool Ointment. 
             
Topical Therapy:
   To bilateral foot wounds clean with Commercial wound cleanser
or normal saline to cleanse wounds.
   Pat the tissue dry with dry gauze.
   ( X )Apply moisture barrier ointment to the periwound tissue  

           with each dressing change.
   
   Apply duoderm gel to open wounds on toes and heel 
   Cover with Adaptic or Xeroform (as patient has some from ___
clinic)
   Right second toe apply a small piece of Adaptic AG, moisten
and cover with 2X2
   Secure all wounds with Kling wrap and tape. 
   Change dressing Daily
     
============================================
============================================

Transitional issues:

He will follow-up in the ___ clinic within the next ___ 
hours, will pick up his meds at ___ pharmacy directly after 
discharge, and will see podiatry at ___ later this week. 

- plan for 4 additional days of augmentin for abdominal wall 
wound
- continued help with wound care of feet and ostomy/peristomal 
wound care
- trend anemia and thrombocytosis and consider further 
evaluation if appropriate
- encourage adherence to medication regimen, particularly 
anticoagulation
- social work support and consideration of residential living 
option and/or community support person
- further alcohol counseling

============================================
============================================
>30 minutes in patient care and coordination of discharge on 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO TID 
2. Oxybutynin 15 mg PO DAILY 
3. Rivaroxaban 20 mg PO DAILY 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea/wheezing 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 4 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice daily Disp #*8 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*15 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea/wheezing  
4.  Baclofen 10 mg PO TID 
RX *baclofen 10 mg 1 tablet(s) by mouth three times daily Disp 
#*90 Tablet Refills:*0 
5.  Oxybutynin 15 mg PO DAILY 
RX *oxybutynin chloride 15 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected wound infection of abdominal wall
Foot ulcers
DVT/PE
Neurogenic bladder and bowel 
Autonomic dysreflexia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: independent use of wheelchair

 
Discharge Instructions:
You were admitted to the hospital due to abdominal pain. This 
seemed to have resulted from contamination of the wound on your 
abdomen with stool from your ostomy. There was some concern for 
an infection of the wound and also potentially for a UTI and so 
you were treated with antibiotics. You were provided with 
assistance with wound care, and you pain improved during the 
hospitalization. 

Plans after discharge:
(1) you were provided with prescriptions for your home 
medications which you can fill at the ___ pharmacy
(2) you were provided with a prescription for augmentin (an 
antibiotic), to take for 4 more days
(3) you were provided with supplies and instructions for your 
wound care
(4) you should go to the ___ clinic to be seen within 48 hours. 
We have informed them of your hospitalization
(5) you should see your podiatrist at BMC as planned
(6) once you have your cell phone you can discuss additional 
supports such as a "Community Support Person" with the social 
workers at BMD
(7) you were also prescribed iron pills and should discuss with 
your doctor further evaluation of your iron deficiency anemia, 
which may be due to blood loss from your ostomy

 
Followup Instructions:
___